US04405781
To 15 ml of water there were added 5 g of 6-chloropurine methansulfonate with vigorous stirring. After stirring for 15 minutes at room temperature the mixture was allowed to stand in a freezer for 1 hour after which the light yellow precipitate which formed was collected by filtration. The filter cake was washed with 5 ml of ice water and dried in a vacuum oven at 55° C. to give 2.6 g (84% yield) of 6-chloropurine, λ max (H2O)=265 nm, ε=9.22×103.

reactant | 6-chloropurine methansulfonate | 5 g | CS(=O)(=O)O.ClC1=C2NC=NC2=NC=N1
solvent | H2O | O | H2O
solvent | water | 15 ml | O | H2O
product | 6-chloropurine | 2.6 g, 84% yield | ClC1=C2NC=NC2=NC=N1 | C5H3ClN4
